US07618975B2
(2-Methyl-quinazolin-4-yl)-(2,4,6-trimethoxy-phenyl)-amine
The title compound was prepared from 4-chloro-2-methyl-quinazoline (89.3 mg, 0.5 mmol), 2,4,6-trimethoxy-phenylamine (91.6 mg, 0.5 mmol) by a procedure similar to example 78. 1H NMR (CDCl3): 7.86 (d, J=8.4 Hz, 1H), 7.80 (d, J=8.4 Hz, 1H), 7.71 (t, J=6.6 Hz, 1H), 7.41 (t, J=8.1 Hz, 1H), 6.81 (brs, 1H), 6.25 (s, 2H), 3.87 (s, 3H), 3.79 (s, 6H), 2.57 (s, 3H).

reactant | 4-chloro-2-methyl-quinazoline | 0.5 mmol, 89.3 mg | ClC1=NC(=NC2=CC=CC=C12)C | C9H7ClN2
reactant | 2,4,6-trimethoxy-phenylamine | 0.5 mmol, 91.6 mg | COC1=C(C(=CC(=C1)OC)OC)N | C9H13NO3
product | (2-Methyl-quinazolin-4-yl)-(2,4,6-trimethoxy-phenyl)-amine | CC1=NC2=CC=CC=C2C(=N1)NC1=C(C=C(C=C1OC)OC)OC | C18H19N3O3
